US08425865B2
A 0.12M solution was prepared by dissolving 11.2 g in 500 ml of water. This dissolution was rapid and formed a colourless clear solution. The iron (III) chloride and the diethyl dithiophosphate ammonium salt reacted to produce iron (III) diethyl dithiophosphate. FIG. 9 shows the molecular structure of the iron (III) diethyl dithiophosphate and the mass spectrum of iron (III) diethyl dithiophosphate produced here.

reactant | iron (III) chloride | [Fe](Cl)(Cl)Cl
reactant | diethyl dithiophosphate ammonium salt | [NH4+].P(=S)(SCC)(OCC)[O-]
solvent | water | 500 ml | O | H2O
product | iron (III) diethyl dithiophosphate | P(=S)(SCC)(OCC)[O-].[Fe+3].C(C)SP(=S)(OCC)[O-].C(C)SP(=S)(OCC)[O-] | InChI=1S/3C4H11O2PS2.Fe/c3*1-3-6-7(5,8)9-4-2;/h3*3-4H2,1-2H3,(H,5,8);/q;;;+3/p-3
